US06734203B2
4 M hydrogen chloride/ethyl acetate solution (3 ml) was added to a suspension of N-[3-(2-Hydroxyethyl)amino-1,4-dihydro-1,4-dioxo-2-naphthalenyl]-N-methylacetamide (0.4 g) in ethanol (3 ml) and the mixture was stirred at 45° C. for 1 hour. After cooling, the resulting precipitate was collected by filtration and washed with ethyl acetate. The obtained solid was recrystallized from ethanol-ethyl acetate to give 1-(2-hydroxyethyl)-2,3-dimethyl-4,9-dihydro-4,9-dioxo-1H-naphtho[2,3-d]imidazol-3-ium chloride (0.28 g) as a colorless powder.

reactant | hydrogen chloride ethyl acetate | 4 M, 3 ml | Cl.C(C)(=O)OCC
reactant | N-[3-(2-Hydroxyethyl)amino-1,4-dihydro-1,4-dioxo-2-naphthalenyl]-N-methylacetamide | 0.4 g | OCCNC1=C(C(C2=CC=CC=C2C1=O)=O)N(C(C)=O)C | C15H16N2O4
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 1-(2-hydroxyethyl)-2,3-dimethyl-4,9-dihydro-4,9-dioxo-1H-naphtho[2,3-d]imidazol-3-ium chloride | 0.28 g | [Cl-].OCCN1C(=[N+](C2=C1C(C1=CC=CC=C1C2=O)=O)C)C | InChI=1S/C15H15N2O3.ClH/c1-9-16(2)12-13(17(9)7-8-18)15(20)11-6-4-3-5-10(11)14(12)19;/h3-6,18H,7-8H2,1-2H3;1H/q+1;/p-1
